US07326791B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]4-[(2R/S)-2-dimethylamino-methylpyrrolidin-1-ylcarbonyl]benzamide
Prepared analogously to Example 1g from (1S)-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, TBTU, diisopropylethylamine, and rac-2-(dimethylaminomethyl)pyrrolidine in tetrahydrofuran. Yield: 50%; Rf value: 0.32 (Reversed phase RP 8: methanol/5% sodium chloride solution=6:4); C24H27Cl2N5O2 (488.416); mass spectrum: (M+H)+=488/490/492 (chlorine isotope) and (M−H)−=486/488/490 (chlorine isotope).

reactant | (1S)-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)N[C@@H](C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac-2-(dimethylaminomethyl)pyrrolidine | CN(C)CC1NCCC1 | C7H16N2
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]4-[(2R/S)-2-dimethylamino-methylpyrrolidin-1-ylcarbonyl]benzamide | Yield: 50% | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(CCC1)(N(C)C)C | C24H27Cl2N5O2
